US06656965B2
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-[N′α-(2-thiophenesulfonyl)-L-phenylalanyl]-L-lysine
The title compound was prepared from solid phase bound Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(9-fluorenylmethoxycarbonyl)-L-lysine as described in general procedure Bb using Nα-(2-thiophenesulfonyl)-L-phenylalanine (300 mg, 1.2 mmol) which was prepared in step A of example 24. The final product was purified by preparative HPLC to yield 46 mg (54%) of the desired material.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(9-fluorenylmethoxycarbonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C31H35N3O8S
reactant | Nα-(2-thiophenesulfonyl)-L-phenylalanine | 1.2 mmol, 300 mg | S1C(=CC=C1)S(=O)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C13H13NO4S2
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-[N′α-(2-thiophenesulfonyl)-L-phenylalanyl]-L-lysine | CC(C)CN([C@@H](CCCCNC(=O)[C@H](CC1=CC=CC=C1)NS(=O)(=O)C2=CC=CS2)C(=O)O)S(=O)(=O)C3=CC=C(C=C3)[N+](=O)[O-] | C29H36N4O9S3
